US06613942B1
To a sample of ethyl 5-hydroxyindole-2-carboxylate (5 g, 24 mmol), dissolved in ethanol (250 mL) was added hydrazine (4 mL, 121 mmol). The reaction was refluxed overnight under nitrogen. Upon cooling the reaction vessel, the desired product crystallized. The white solid was isolated by filtration. Recrystallization from hot ethanol gave the 5-hydroxyindole-3-carboxylic acid hydrazide in 85% yield.

reactant | ethyl 5-hydroxyindole-2-carboxylate | 24 mmol, 5 g | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
reactant | hydrazine | 121 mmol, 4 mL | NN | H4N2
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | 5-hydroxyindole-3-carboxylic acid hydrazide | 85% yield | OC=1C=C2C(=CNC2=CC1)C(=O)NN | C9H9N3O2
